US06833480B2
A solution of 3-methoxy-4-hydroxyphenylacetylene (0.02 mol), 2-chloro-4-fluorobenzyl mercaptan (0.02 mol) and metallic sodium (0.02 g atom) is subjected to the General Procedure to form (Z)-3-methoxy-4-hydroxystyryl-2-chloro-4-fluorobenzylsulfide. The title compound is obtained following oxidation of the sulfide, according to the General Procedure.

reactant | 3-methoxy-4-hydroxyphenylacetylene | 0.02 mol | COC=1C=C(C=CC1O)C#C | C9H8O2
reactant | 2-chloro-4-fluorobenzyl mercaptan | 0.02 mol | ClC1=C(CS)C=CC(=C1)F | C7H6ClFS
reactant | sodium | 0.02 g | [Na] | Na
product | (Z)-3-methoxy-4-hydroxystyryl-2-chloro-4-fluorobenzylsulfide | COC=1C=C(\C=C/C(C2=C(C=C(C=C2)F)Cl)SC(C2=C(C=C(C=C2)F)Cl)\C=C/C2=CC(=C(C=C2)O)OC)C=CC1O | C32H26Cl2F2O4S
